US07982071B2
Preparation of 2-(3-(2-propylpentyloxy)phenoxy)ethanamine
Deprotection of 2-(2-(3-(2-propylpentyloxy)phenoxy)ethyl)isoindoline-1,3-dione following the method used in Example 18 gave Example 25 as a colorless oil. Yield (0.11 g, 82%): 1H NMR (400 MHz, DMSO) δ 7.11 (t, J=8.0 Hz, 1H), 6.42-6.48 (m, 3H), 3.85 (t, J=5.6 Hz, 2H), 3.78 (d, J=6.0 Hz, 2H), 2.81 (t, J=6.0 Hz, 2H), 1.65-1.75 (m, 1H), 1.48 (brs, 2H), 1.20-1.40 (m, 8H), 0.85 (t, J=7.2 Hz, 6H).

reactant | 2-(2-(3-(2-propylpentyloxy)phenoxy)ethyl)isoindoline-1,3-dione | C(CC)C(COC=1C=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1)CCC | C24H29NO4
solvent | ether | CCOCC | C4H10O
product | 2-(3-(2-propylpentyloxy)phenoxy)ethanamine | C(CC)C(COC=1C=C(OCCN)C=CC1)CCC | C16H27NO2
